US07470705B2
Add pyridine (1.20 ml, 14.8 mmol) to a suspension of 7-hydroxy-thieno[3,2-b]pyridine-6-carboxylic acid ethyl ester (1.10 g, 4.93 mmol) in dichloromethane (50 ml), and then add isopropyl chloroformate (1.0 N in toluene, 14.8 ml). Stir the reaction mixture at room temperature overnight. Wash the mixture with 1 N HCl (50 ml) followed by brine (3×50 ml). Separate the organic layer, dry over sodium sulfate, filter and concentrate. Purify using silica gel column chromatography (gradient eluent, 0-60% ethyl acetate in hexane) to provide 7-oxo-7H-thieno[3,2-b]pyridine-4,6-dicarboxylic acid 6-ethyl ester 4-isopropyl ester (1.37 g, 90%) as a white crystalline solid. MS (ES+): 310 (M+H).

reactant | pyridine | 14.8 mmol, 1.20 ml | N1=CC=CC=C1 | C5H5N
reactant | 7-hydroxy-thieno[3,2-b]pyridine-6-carboxylic acid ethyl ester | 4.93 mmol, 1.10 g | C(C)OC(=O)C=1C(=C2C(=NC1)C=CS2)O | C10H9NO3S
reactant | isopropyl chloroformate | 1.0 N, 14.8 ml | ClC(=O)OC(C)C | C4H7ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 7-oxo-7H-thieno[3,2-b]pyridine-4,6-dicarboxylic acid 6-ethyl ester 4-isopropyl ester | 1.37 g, 90% | C(C)(C)OC(=O)N1C2=C(C(C(=C1)C(=O)OCC)=O)SC=C2 | C14H15NO5S
